US05877317
Titanium tetrachloride (1M in methylene chloride, 51 ml) is added over a period of 10 min to an ice-cooled mixture of 2-(3-bromophenyl)ethanol (XLV, 4.34 g, 21.6 mmol) and ethyl 3,3-diethoxypropionate (LXXXV, 4.93 g, 25.9 mmol) in nitromethane (5 ml). After stirring for 10 min, the ice bath is removed and the mixture is allowed to stir at 20-250 for 5 hr, at which time it is poured onto ice/aqueous hydrochloric acid (~1N). The mixture is extracted with dichloromethane and backwashed with hydrochloric acid (0.5N)/saline and saline. The organic phase is separated dried over sodium sulfate, concentrated, and the residue chromatographed on silica gel eluting with ethyl acetate/hexane (5/95). The appropriate fractions are pooled and concentrated to give ethyl (6-bromoisochroman-1-yl)acetate (LXXVII), NMR (CDCl3) 1.28, 2.66-2.87, 2.96, 3.768, 3.807, 4.11, 4.21, 5.19, 6.93 and 7.28 δ.

reactant | 2-(3-bromophenyl)ethanol | 21.6 mmol, 4.34 g | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | ethyl 3,3-diethoxypropionate | 25.9 mmol, 4.93 g | C(C)OC(CC(=O)OCC)OCC | C9H18O4
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
catalyst | Titanium tetrachloride | 1M, 51 ml | [Ti](Cl)(Cl)(Cl)Cl
product | ethyl (6-bromoisochroman-1-yl)acetate | BrC=1C=C2CCOC(C2=CC1)CC(=O)OCC | C13H15BrO3
